US07351778B2
0.01 Mole of ethyl 2-methyl-3-fluorenoyloxybutyrate was prepared from 0.04 mol of ethyl 2-methyl-3-hydroxybutyrate and 0.05 mol of fluorenoyl chloride (9-fluorenyl carbonyl chloride) following the procedure as described in step 3) of the Preparation Example 3. Yield 25%.

reactant | ethyl 2-methyl-3-hydroxybutyrate | 0.04 mol | CC(C(=O)OCC)C(C)O | C7H14O3
reactant | fluorenoyl chloride | 0.05 mol | C1(=CC=CC=2C3=CC=CC=C3CC12)C(=O)Cl | C14H9ClO
product | ethyl 2-methyl-3-fluorenoyloxybutyrate | 0.01 Mole, Yield 25% | CC(C(=O)OCC)C(C)OC(=O)C1=CC=CC=2C3=CC=CC=C3CC12 | C21H22O4
